US04394515
3-Hydroxymethyl-10,11-dihydro-11-oxodibenzo[b,f]-thiepin
Dissolve 5.1 gm. of 10,11-dihydro-11-oxodibenzo[b,f]thiepin-3-carboxylic acid in 100 cc. of tetrahydrofuran and add 35 cc. of 1M borane in tetrahydrofuran at room temperature under a nitrogen atmosphere. Stir the mixture at room temperature for 3 hours. Slowly dilute the reaction mixture with water and then with ethyl acetate. Wash with aqueous sodium chloride, dry and evaporate to an oil.

reactant | 10,11-dihydro-11-oxodibenzo[b,f]thiepin-3-carboxylic acid | O=C1C2=C(SC3=C(C1)C=CC=C3)C=C(C=C2)C(=O)O | C15H10O3S
reactant | borane | 1M | B | BH3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-Hydroxymethyl-10,11-dihydro-11-oxodibenzo[b,f]-thiepin | OCC=1C=CC2=C(SC3=C(CC2=O)C=CC=C3)C1 | C15H12O2S
